US07470679B2
tert-butyl 3-((R)-8-oxo-7-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)pyrrolidine-1-carboxylate
tert-butyl 3-((R)-7-(benzyloxycarbonyl)-8-oxo-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)pyrrolidine-1-carboxylate was dissolved in methanol (10 mL). Acetic acid (300 μL) was added to the mixture followed by 10% palladium on carbon. Reaction vessel was placed on a Parr apparatus and charged with 30 psi of hydrogen gas. Reaction shook at ambient temperature for 2 hours. Reaction mixture was filtered. Filtrate was concentrated in vacuo. Residue was dissolved in dichloromethane (2 mL). Triethylamine (500 μL, 3.6 mmol) was added to the mixture followed by N,N′-disuccinimidyl carbonate (90 mg, 0.35 mmol). Reaction stirred at room temperature for 30 minutes. 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one acetate (80 mg, 0.27 mmol) was added to the mixture. Reaction stirred at room temperature for 1 hour. Mixture was diluted with dichloromethane. Mixture was washed with water. Organic layer was concentrated. C18 preparative HPLC purification afforded the title compound as yellow solid in 24% yield. MS m/e (M−C5H8O2+H)+=543.

reactant | tert-butyl 3-((R)-7-(benzyloxycarbonyl)-8-oxo-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)C1CN(CC1)C(=O)OC(C)(C)C | C28H32N4O5
reactant | hydrogen | [H][H] | H2
reactant | Triethylamine | 3.6 mmol, 500 μL | C(C)N(CC)CC | C6H15N
reactant | N,N′-disuccinimidyl carbonate | 0.35 mmol, 90 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one acetate | 0.27 mmol, 80 mg | C(C)(=O)O.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Acetic acid | 300 μL | C(C)(=O)O | C2H4O2
product | tert-butyl 3-((R)-8-oxo-7-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)-7,8-dihydroazepino[3,4-e]indazol-9(3H,6H,10H)-yl)pyrrolidine-1-carboxylate | 24% yield | O=C1[C@@H](CC2=C(C=3C=NNC3C=C2)CN1C1CN(CC1)C(=O)OC(C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C34H42N8O5
